US07449467B2
(1R,4S)-4-[(tert-Butoxycarbonyl)amino]-1-ethylcyclopent-2-ene-1-carboxylic Acid
To a solution of methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-ethylcyclopent-2-ene-1-carboxylate (4.80 g, 17.8 mmol) ) in a mixture of tetrahydrofuran (100 mL), methanol (100 mL) and water (20 mL) was added lithium hydroxide monohydrate (1.2 g, 28.6 mmol) and the mixture was refluxed overnight. The organic solvents were evaporated. The aqueous layer was then acidified with 6 N HCl to about pH 4 and extracted with methylene chloride three times. The combined extracts were dried, filtered, and concentrated to give a mixture of cis/trans isomers (2.93 g, cis/trans=7:1) as a light yellow solid. This solid was dissolved in EtOAc (4.0 mL) with heating and diluted with hexanes (100 mL) to give a clear solution. This solution was allowed to cool to room temperature slowly over 1 h and then maintained at −25° C. overnight. The cis-isomer was crystallized and dried to provide the desired product (1.40 g, 31%) as a white solid. MS calculated for C13H21NO4: (M+H) 256.2.2; found 156.1 (M+H-Boc).

reactant | methyl (1R,4S)-4-[(tert-butoxycarbonyl)amino]-1-ethylcyclopent-2-ene-1-carboxylate | 17.8 mmol, 4.80 g | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)OC)CC | C14H23NO4
reactant | methanol | 100 mL | CO | CH4O
reactant | water | 20 mL | O | H2O
reactant | lithium hydroxide monohydrate | 28.6 mmol, 1.2 g | O.[OH-].[Li+]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
solvent | EtOAc | 4.0 mL | CCOC(=O)C | C4H8O2
product | (1R,4S)-4-[(tert-Butoxycarbonyl)amino]-1-ethylcyclopent-2-ene-1-carboxylic Acid | 1.40 g, 31% | C(C)(C)(C)OC(=O)N[C@@H]1C=C[C@@](C1)(C(=O)O)CC | C13H21NO4
